US08420823B2
3-(Piperidin-1-ylsulfonyl)-N-[4-(trifluoromethyl)phenyl]benzamide
The entitled compound was produced according to the method of Example 71 but using 3-(piperidin-1-ylsulfonyl)benzoic acid (100 mg) and 4-aminobenzotrifluoride (59 mg) as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | 100 mg | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 4-aminobenzotrifluoride | 59 mg | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
product | 3-(Piperidin-1-ylsulfonyl)-N-[4-(trifluoromethyl)phenyl]benzamide | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=CC1 | C19H19F3N2O3S
